US07842713B2
Preparation of Intermediate: 4-(5-fluoro-6-(3-fluoroazetidine-1-carbonyl)pyridin-3-yloxy)-2,2-dimethyl-2,3-dihydrobenzofuran-6-carboxylic acid
To a solution of methyl 4-(5-fluoro-6-(3-fluoroazetidine-1-carbonyl)pyridin-3-yloxy)-2,2-dimethyl-2,3-dihydrobenzofuran-6-carboxylate (1.520 g, 3.633 mmol), in 10 mL THF and 10 mL MeOH was added 4.25 mL of 1N aqueous NaOH. The resulting solution was stirred at room temperature for 2 hr. The solvent was removed in vacuo. Water was added, and the mixture was washed with EtOAc. The aqueous layer was acidified with 1N HCl until pH˜1, and extracted with 3×EtOAc. The combined organic layer was dried over Na2SO4 and concentrated to give a white foam (1.32 g, 90% yield), which contains ˜15% impurity. LCMS for C20H18F2N2O5 m/z 405.20 (M+H)+.

reactant | methyl 4-(5-fluoro-6-(3-fluoroazetidine-1-carbonyl)pyridin-3-yloxy)-2,2-dimethyl-2,3-dihydrobenzofuran-6-carboxylate | 3.633 mmol, 1.520 g | FC=1C=C(C=NC1C(=O)N1CC(C1)F)OC1=CC(=CC2=C1CC(O2)(C)C)C(=O)OC | C21H20F2N2O5
reactant | MeOH | 10 mL | CO | CH4O
reactant | NaOH | 1N, 4.25 mL | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(5-fluoro-6-(3-fluoroazetidine-1-carbonyl)pyridin-3-yloxy)-2,2-dimethyl-2,3-dihydrobenzofuran-6-carboxylic acid | 1.32 g, 90% yield | FC=1C=C(C=NC1C(=O)N1CC(C1)F)OC1=CC(=CC2=C1CC(O2)(C)C)C(=O)O | C20H18F2N2O5
